US08871943B2
Isopropyl 4-(amino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate
In a 50 mL three-neck round bottom flask was charged potassium fluoride dihydrate (12.0 mmol), 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane (5.40 mmol), isopropyl 4-amino-6-bromo-5-fluoropicolinate (4.0 mmol), MeCN (15 mL), and H2O (5 mL). The resulting mixture was sparged with N2 for 15 min then Pd(PPh3)2Cl2 (0.006-0.08 mmol) was added. The resulting suspension was sparged for 20 min then heated to 68-70° C. After 1 h of stirring, an aliquot (1-2 μL) was taken and diluted with MeCN (2 mL). The aliquot was analyzed by HPLC by monitoring the consumption of starting material 4-(acetylamido)-5-fluoropicolinate ester. After the reaction was deemed complete the heating mantle was removed and the mixture was cooled to ambient temperature and was diluted with MeCN/toluene/H2O (75 mL, 3/1/1); if needed, extra volume of the solvent mixture was added to dissolve the solids. The layers were then separated using a reparatory funnel. The product assay was then determined using an internal standard (hexanophenone): mp=177-179° C.; 1H NMR (400 MHz, DMSO-d6) δ 7.52 (d, JF-H=6.8 Hz, 1H), 7.47 (dd, J=8.4, 1.6 Hz, 1H), 7.29 (dd, J=8.4, 7.2 Hz, 1H), 6.70 (s, 2H), 5.12 (p, J=6.4 Hz, 1H), 3.93 (s, 3H), 1.30 (d, J=6.4 Hz, 6H); 13C NMR (100.6 MHz, DMSO-d6) δ 163.6, 154.4, 151.2, 148.0, 145.5, 144.0 (dd, JF-C=38.3, 4.2 Hz), 143.7 (d, JF-C=2.9 Hz), 139.0 (d, JF-C=13.6 Hz), 128.2 (d, JF-C=3.1 Hz), 126.0 (d, JF-C=3.4 Hz), 125.4 (d, JF-C=3.5 Hz), 123.9 (dd, JF-C=14.2, 3.5 Hz), 112.5 (d, JF-C=5.1 Hz), 68.5, 61.5 (d, JF-C=4.0 Hz), 21.6; 19F {1H} NMR (376.5 MHz, DMSO-d6) δ −129.4 (d, JF-F=25.6 Hz), −142.8 (d, JF-F=25.6 Hz); MS Calcd. for C16H15ClF2N2O3: 356.1. Found: 356 (M+), 270.

reactant | potassium fluoride dihydrate | 12.0 mmol | O.O.[F-].[K+]
reactant | 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane | 5.40 mmol | ClC1=C(C(=C(C=C1)B1OCCCO1)F)OC | C10H11BClFO3
reactant | isopropyl 4-amino-6-bromo-5-fluoropicolinate | 4.0 mmol | NC1=CC(=NC(=C1F)Br)C(=O)OC(C)C | C9H10BrFN2O2
reactant | MeCN | 15 mL | CC#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.006-0.08 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 5 mL | O | H2O
product | Isopropyl 4-(amino)-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-picolinate | NC1=CC(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC(C)C | C16H15ClF2N2O3
